US05128355
A solution of 1.98 g of 1-[(2'-tert-butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-5-hydroxymethyl-4-nitroimidazole, 20 mL of trifluoroacetic acid, and 20 mL of methylene chloride was stirred at 25° for 1 hour. At this point, the solution was poured into water. The resulting mixture was adjusted to pH 3 using 10% sodium hydroxide solution and then extracted with chloroform. The combined organic phases were washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Column chromatography (elution: methanol/chloroform) provided 1.49 g of 1-[(2'-carboxybiphenyl-4-yl)methy]-2-butyl-5-hydroxymethyl-4-nitroimidazole; m.p. 204°-205.5°. NMR (200 MHz, DMSO-d6): δ 7.71 (d, 1H); 7.56 (t, 1H); 7.43 (t, 1H); 7.32 (m, 3H); 7.15 (d, 2H); 5.63 (br s, 1H); 5.42 (s, 2H); 4.83 (s, 2H); 2.54 (t, 2H); 1.50 (quint., 2H); 1.24 (sext., 2H); 0.76 (t, 3H).

reactant | 1-[(2'-tert-butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-5-hydroxymethyl-4-nitroimidazole | 1.98 g | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)[N+](=O)[O-])CCCC | C26H31N3O5
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-[(2'-carboxybiphenyl-4-yl)methy]-2-butyl-5-hydroxymethyl-4-nitroimidazole | 1.49 g | C(=O)(O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)[N+](=O)[O-])CCCC | C22H23N3O5
